US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinol-5-yl)-4-azido-5-iodo-2-methoxybenzamide
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 4-azido-5-iodo-2-methoxybenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 4-azido-5-iodo-2-methoxybenzoic acid | N(=[N+]=[N-])C1=CC(=C(C(=O)O)C=C1I)OC | C8H6IN3O3
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinol-5-yl)-4-azido-5-iodo-2-methoxybenzamide | CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)I)N=[N+]=[N-])OC)=O | C18H18IN5O2
